US07297698B2
tert-Butyl (2R,5S)-4-(4-cyano-3-fluorophenyl)-2,5-dimethylpiperazine-1-carboxylate
Into a solution of 9.74 g of tert-butyl (2R,5S)-2,5-dimethylpiperazine-1-carboxylate in 25 ml of DMI and 25 ml of acetonitrile were added 5 g of 2,4-difluorobenzonitrile and 11.4 g of cesium carbonate, followed by 2 days of stirring at 120° C. The reaction solution was poured into water, followed by extraction with ethyl acetate. After the organic layer was washed with saturated saline, it was dried over anhydrous sodium sulfate. The solvent was removed by evaporation and the resulting residue was purified by silica gel column chromatography to obtain 4.66 g of the title compound from an eluate eluted with hexane-ethyl acetate (80:20, v/v).

reactant | tert-butyl (2R,5S)-2,5-dimethylpiperazine-1-carboxylate | 9.74 g | C[C@H]1N(C[C@@H](NC1)C)C(=O)OC(C)(C)C | C11H22N2O2
reactant | 2,4-difluorobenzonitrile | 5 g | FC1=C(C#N)C=CC(=C1)F | C7H3F2N
reactant | cesium carbonate | 11.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMI | 25 ml | CN1CCN(C1=O)C | C5H10N2O
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | tert-Butyl (2R,5S)-4-(4-cyano-3-fluorophenyl)-2,5-dimethylpiperazine-1-carboxylate | 4.66 g | C(#N)C1=C(C=C(C=C1)N1C[C@H](N(C[C@@H]1C)C(=O)OC(C)(C)C)C)F | C18H24FN3O2
